US04663344
Step A: Preparation of Methyl 2,6-dihydroxybenzoate
Concentrated sulfuric acid (40 ml) was carefully added to a solution of 2,6-dihydroxybenzoic acid (133 g, 0.86 mol) in absolute methanol (500 ml). The reaction mixture was heated at reflux temperature for 24 hours, cooled, and evaporated. The residue was added to aa saturated sodium hydrogencarbonate solution, and the resulting solid was collected by filtration, washed with water, and dried in vacuo over phosphorus peroxide; yield 49 g (34%). NMR (CDCl3, 60 MHz): δ4.02 (s, CO2CH3) p.p.m.

reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,6-dihydroxybenzoic acid | 0.86 mol, 133 g | OC1=C(C(=O)O)C(=CC=C1)O | C7H6O4
reactant | methanol | 500 ml | CO | CH4O
product | Methyl 2,6-dihydroxybenzoate | OC1=C(C(=O)OC)C(=CC=C1)O | C8H8O4
